US07390908B2
Route 17: 3,5-bis(benzyloxy)-N-[5-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)pyridin-2-yl]benzamide
Ethyl chloroformate (32 μL, 0.33 mmol) was added to a solution of 3,5-bis(benzyloxy)-N-{5-[(hydroxyamino)(imino)methyl]pyridin-2-yl}benzamide (140 mg, 0.30 mmol) in pyridine (5 mL). This solution was heated at reflux overnight. The mixture was cooled and concentrated under reduced pressure. DCM and methanol were used to dissolve the remaining material and the solution was washed with water. The organic solution was concentrated under reduced pressure and the residue was purified on silica by MPLC (eluting firstly with 5% methanol/DCM then 10% methanol/DCM). The title compound was obtained as a colourless solid (103 mg, 70%). 1H NMR δ (d6-DMSO): 5.19 (4H, s); 6.87 (1H, s); 7.28-7.46 (12H, m); 8.21 (1H, dd); 8.38 (1H, d); 8.79 (1H, s); 11.14 (1H, br s); m/z (LCMS; ESI+) 495 (MH+).

reactant | Ethyl chloroformate | 0.33 mmol, 32 μL | ClC(=O)OCC | C3H5ClO2
reactant | 3,5-bis(benzyloxy)-N-{5-[(hydroxyamino)(imino)methyl]pyridin-2-yl}benzamide | 0.30 mmol, 140 mg | C(C1=CC=CC=C1)OC=1C=C(C(=O)NC2=NC=C(C=C2)C(=N)NO)C=C(C1)OCC1=CC=CC=C1 | C27H24N4O4
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 3,5-bis(benzyloxy)-N-[5-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)pyridin-2-yl]benzamide | C(C1=CC=CC=C1)OC=1C=C(C(=O)NC2=NC=C(C=C2)C2=NOC(N2)=O)C=C(C1)OCC1=CC=CC=C1 | C28H22N4O5
